US05182288
N-[4-(2-Carbomethoxyphenyl)benzyl]phthalimide (f)
Methyl 2-[4-(bromomethylene)phenyl]benzoate (1.22 g, 0.04 mole), phthalimide (0.59 g, 0.04 mole), and potassium carbonate (0.55 g, 0.04 mole) are combined in 120 mL acetonitrile. The mixture is heated at reflux for 24 hours. At that time the mixture is filtered through celite and rotovapped to a residue. The residue is crystallized from ethyl acetate to afford 1.1 g (71% ) of the title compound as a tan solid mp 148°-150° C. 1H NMR (CDCl3) 7.9-7.1 (12H, m); 4.92 (2H, s); 3.63 (3H, s). Mass Spec. (DCI) m/z 372 (M+H). Analysis -calc'd for C23H17NO4.1/2 H2O: C, 72.62; H, 4.77: N, 3.68; found: C, 72.88; H, 4.55; N, 3.77.

reactant | Methyl 2-[4-(bromomethylene)phenyl]benzoate | 0.04 mole, 1.22 g | BrC=C1CC=C(C=C1)C1=C(C(=O)OC)C=CC=C1 | C15H13BrO2
reactant | phthalimide | 0.04 mole, 0.59 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | potassium carbonate | 0.04 mole, 0.55 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | N-[4-(2-Carbomethoxyphenyl)benzyl]phthalimide | 1.1 g, 71% | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C23H17NO4
